US04511390
4.98 g (20 mmol) N-carbobenzoxy-L-proline, 2.73 g (20 mmol) isobutyl chloroformate, 2.02 g (20 mmol) N-methylmorpholine, and 1.50 g (20 mmol) L-alaninol were contacted and reacted in THF substantially according to the mixed anhydride procedure described in Example 1. Recrystallization of crude product from 50 ml ehtyl acetate provided 3.61 g (11.8 mmol, 59%) of colorless, crystalline N-carbobenzoxy-L-prolyl-L-alaninol; m.p. 126.5°-127.6°, α25D-48.9° (C=1.03 g/100 mL in acetone).

reactant | N-carbobenzoxy-L-proline | 20 mmol, 4.98 g | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | isobutyl chloroformate | 20 mmol, 2.73 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 20 mmol, 2.02 g | CN1CCOCC1 | C5H11NO
reactant | L-alaninol | 20 mmol, 1.50 g | N[C@@H](C)CO | C3H9NO
solvent | THF | C1CCOC1 | C4H8O
product | N-carbobenzoxy-L-prolyl-L-alaninol | C(=O)(OCC1=CC=CC=C1)N1[C@H](C(=O)N[C@@H](C)CO)CCC1 | C16H22N2O4
